US07014968B2
4-Diethylaminobenzaldehyde N-2,3-epoxvpropyl-N-phenylhydrazone
A mixture of potassium hydroxide powder (KOH, 85%, 198 g, 3 mol,) and anhydrous sodium sulfate (Na2SO4, 51 g, 0.369 mol) was added in three stages to a mixture of 4-(diethylamino)benzaldehyde N-phenylhydrazone (267.4 g, 1 mol) and epichlorohydrin (1.5 mol), while keeping the reaction mixture at 20–25° C.: stage quantities added were 33 g of Na2SO4 and 66 g of KOH initially; 9.9 g of Na2SO4 and 66 g of KOH after 1 hour of reaction; and 9.9 g of Na2SO4 and 66 g of KOH after 2 hours of reaction. The reaction mixture was stirred vigorously at 35–40° C. until the starting hydrazone disappeared (approx. 4–5 hours). Subsequently, the mixture was cooled to room temperature, and the solids were removed by filtration. The liquid organic phase was treated with diethyl ether and washed with distilled water until the washed water was neutral. The organic layer was dried over anhydrous magnesium sulfate, treated with activated charcoal, and filtered. The solvent and excess epichlorohydrin were removed by evaporation in a rotory evaporator. The residue was recrystallized from diethyl ether and the crystals that formed upon standing were filtered off and washed with 2-propanol to give 260 g of the product (80.4% yield). The melting point was found to be 79–80.5° C. (recrystallized from diethyl ether). The 1H NMR spectrum (250 MHz) of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 7.7–6.7 (m, 8H, Ar, CH═N); 6.6 (d, 2H, 2-H, 6-H of p-Ph); 4.4–3.6 (m, 2H, NCH2CH); 3.6–3.0 (m, 5H, CH2CH3, CH2CHCH2); 2.75 (m, 1H, ABX, cis-HA of CH2O); 2.55 (m, ABX, trans-HB of CH2O); and 1.1 (t, J=7.0 Hz, 6H, CH3).

reactant | potassium hydroxide | 3 mol, 198 g | [OH-].[K+]
reactant | sodium sulfate | 0.369 mol, 51 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-(diethylamino)benzaldehyde N-phenylhydrazone | 1 mol, 267.4 g | C1(=CC=CC=C1)NN=CC1=CC=C(C=C1)N(CC)CC | C17H21N3
reactant | epichlorohydrin | 1.5 mol | C(Cl)C1CO1 | C3H5ClO
reactant | Na2SO4 | 33 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | KOH | 66 g | [OH-].[K+]
reactant | KOH | 66 g | [OH-].[K+]
reactant | KOH | 66 g | [OH-].[K+]
catalyst | Na2SO4 | 9.9 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
catalyst | Na2SO4 | 9.9 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
product | 4-Diethylaminobenzaldehyde N-2,3-epoxvpropyl-N-phenylhydrazone | 260 g, 80.4% yield | O1C(CN(N=CC2=CC=C(C=C2)N(CC)CC)C2=CC=CC=C2)C1 | C20H25N3O
